US07572808B2
B. Preparation of 8-(4-chlorophenyl)-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 8-chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (28 mg, 0.067 mmol) in a 1:1 mixture of THF and methanol (4 mL) at room temperature under argon was added 4-chlorophenylboronic acid (12.5 g, 0.080 mmol), PXPd (11 g, 0.02 mmol), and K2CO3 (18.5 mg, 0.13 mmol). The resulting suspension was heated at 70° C. under argon for 10 min. Analysis by HPLC/MS indicated that starting material had been consumed. After cooling the reaction mixture to room temperature, water (25 mL) and EtOAc (25 mL) were added. The layers were separated. The organic layer was dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by preparative reverse phase HPLC (without TFA) to obtain 9 mg of the title compound as a white lyophilate. HPLC/MS: retention time=4.16 min, [M+H]+=495. 1H NMR (CDCl3): δ 8.79 (s, 1H), 7.95 (d, J=6.7 Hz, 1H), 7.83 (d, J=6.5 Hz, 1H) 7.69 (d, J=6.7 Hz, 1H), 7.29-7.18 (m, 4H), 7.12 (d, J=6.2 Hz, 2H), 7.00 (d, J=6.2 Hz, 2H), 6.70 (d, J=6.5 Hz, 1H), 5.27 (s, 2H), 2.32 (s, 3H).

reactant | 8-chloro-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.067 mmol, 28 mg | ClC=1C=2N(C=CC1C1=CC=C(C=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C20H14ClF3N4O
reactant | THF | C1CCOC1 | C4H8O
reactant | 4-chlorophenylboronic acid | 0.080 mmol, 12.5 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 0.13 mmol, 18.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 4 mL | CO | CH4O
product | 8-(4-chlorophenyl)-7-p-tolyl-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 9 mg | ClC1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=C(C=C1)C)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C26H18ClF3N4O
